US06235731B1
1) Synthesis of cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-(3-phenylpropan-1-yl)piperazine
To a suspension of 10 g (46.66 mmol.) of cis-1-tert-butoxycarbonyl-3,5-dimethyl piperazine and 12.90 g (93.3 mmol.) of potassium carbonate in N,N-dimethylformamide (50 ml) was added, at room temperature, 11.15 g (56 mmol.) of 1-bromo-3-phenylpropane. The mixture was stirred for 40 hours at 120° C., which was then cooled to room temperature. To the reaction system was added water, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution and dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a column chromatography (ethyl acetate/hexane 20-30%) to give the object compound as a yellow oily product. The yield was 12.21 g (79%).

reactant | cis-1-tert-butoxycarbonyl-3,5-dimethyl piperazine | 46.66 mmol, 10 g | C(C)(C)(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C11H22N2O2
reactant | potassium carbonate | 93.3 mmol, 12.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-phenylpropane | 56 mmol, 11.15 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-(3-phenylpropan-1-yl)piperazine | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)CCCC1=CC=CC=C1)C | C20H32N2O2
